US06897225B1
4-Methyl-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione
To a solution of 6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione (0.072 g) in formic acid (0.40 mL) and water (0.10 mL) was added 37% formaldehyde (0.050 mL). After 1 hour at reflux, the reaction mixture was diluted with EtOAc and the solution washed with aqueous NaHCO3, and brine, dried (Na2SO4), filtered, and concentrated to yield the titled compound (74.3 g). MS (m/z) 482 (MH+). mp 221° C.

reactant | 6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione | 0.072 g | BrC1=CC=C(CC23CNCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C19H16BrCl2N3O2
reactant | formaldehyde | 0.050 mL | C=O | CH2O
solvent | formic acid | 0.40 mL | C(=O)O | CH2O2
solvent | water | 0.10 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Methyl-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione | 74.3 g | CN1CCN2C(N(C(C2(C1)CC1=CC=C(C=C1)Br)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C20H18BrCl2N3O2
